US06787534B2
7-Amino-2-chloro-4-methylquinoline
To 27 g (251 mmol) of m-phenylenediamine was added 32 ml (251 mmol) of ethyl acetoacetate, followed by stirring at 200 degrees for 1 hour. After standing to cool, the crystals were washed with hexane. To 9.5 g (54 mmol) of the crystals was added 15 ml of phosphorus oxychloride, followed by heating under reflux for 2 hours. After standing to cool, the reaction mixture was poured onto ice-water and basified with a saturated ammonium aqueous solution. The resulting crystals were collected by filtration and washed with water. The crystals were washed with methanol and the filtrate was evaporated, to give 4.85 g of the title compound.

reactant | m-phenylenediamine | 251 mmol, 27 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | ethyl acetoacetate | 251 mmol, 32 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium | [NH4+]
product | 7-Amino-2-chloro-4-methylquinoline | 4.85 g | NC1=CC=C2C(=CC(=NC2=C1)Cl)C | C10H9ClN2
